US07304081B2
Step 2. 3-(1,1-dimethylpropyl)pyrrolidin-3-ol
Benzyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate (56 mg, 0.00019 mol) was dissolved in methanol and to this solution was added Pd/C (10% dry, 10 mg). The reaction vessel was purged with hydrogen and allowed to stir for 3 h with a hydrogen balloon. The catalyst was filtered off and the filtrate was concentrated in-vauo to afford the desired product. LCMS (M+H)=158.

reactant | Benzyl 3-(1,1-dimethylprop-2-en-1-yl)-3-hydroxypyrrolidine-1-carboxylate | 0.00019 mol, 56 mg | CC(C=C)(C)C1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C17H23NO3
solvent | methanol | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 3-(1,1-dimethylpropyl)pyrrolidin-3-ol | CC(CC)(C)C1(CNCC1)O | C9H19NO
